US07528138B2
Synthesis 1-(6-(2-amino-6-methylpyrazolo[1,5-a]pyrimidin-3-yl)pyrimidin-4-yl)piperidine-3-carboxamide
6-methyl-3-(6-(methylsulfinyl)pyrimidin-4-yl)pyrazolo[1,5-a]pyrimidin-2-amine (60 mg, 0.21 mmol) was dissolved in NMP with nipecotamide (100 mg, 0.78 mmol)and heated to 200° C. in a microwave for 20 min. The reaction mixture was purified by RP HPLC (C18, CH3CN/H2O 0.1% TFA) and the pure fractions were poured into ethyl acetate/0.5 N NaOH. The organic phase was dried over sodium sulfate and concentrated to a yellow solid which was dissolved in 1N HCl in MeOH and concentrated to the HCl salt as a yellow solid, 20 mg, 0.052 mmol, 26%. LC/MS MH+353.4

reactant | 6-methyl-3-(6-(methylsulfinyl)pyrimidin-4-yl)pyrazolo[1,5-a]pyrimidin-2-amine | 0.21 mmol, 60 mg | CC=1C=NC=2N(C1)N=C(C2C2=NC=NC(=C2)S(=O)C)N | C12H12N6OS
reactant | nipecotamide | 0.78 mmol, 100 mg | N1CC(C(=O)N)CCC1 | C6H12N2O
solvent | NMP | CN1CCCC1=O | C5H9NO
product | 1-(6-(2-amino-6-methylpyrazolo[1,5-a]pyrimidin-3-yl)pyrimidin-4-yl)piperidine-3-carboxamide | NC1=NN2C(N=CC(=C2)C)=C1C1=CC(=NC=N1)N1CC(CCC1)C(=O)N | C17H20N8O
